US04288436
Conc. hydrochloric acid (0.54 g.) was added dropwise at ambient temperature to a suspension of 7-[2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (2.7 g.) in methanol (70 ml.), and the resulting mixture was stirred for 4.5 hours at ambient temperature. The solvent was distilled off under reduced pressure and water (30 ml.) was added to the residue. The mixture was adjusted to pH 7.2 with a saturated aqueous solution of sodium bicarbonate, and an insoluble material was filtered off. The filtrate was washed with ethyl acetate (25 ml.) and then in turn adjusted to pH 5.5, 4.5 and 3.8, and in turn washed with ethyl acetate at each pH. The aqueous layer was adjusted to pH 1.7, and precipitates were collected by filtration, washed with water (200 ml.) and dried under reduced pressure to give 7-[2-ethoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl- 1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid (syn isomer) (1.65 g.).

reactant | hydrochloric acid | 0.54 g | Cl | ClH
reactant | 7-[2-ethoxyimino-2-(2-formamido-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl-1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 2.7 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)NC=O | C19H19N9O8S3
solvent | methanol | 70 ml | CO | CH4O
product | 7-[2-ethoxyimino-2-(2-amino-1,3-thiazol-4-yl)acetamido]-3-(1-carboxymethyl- 1H-tetrazol-5-yl)thiomethyl-3-cephem-4-carboxylic acid | 1.65 g | C(C)ON=C(C(=O)NC1[C@@H]2N(C(=C(CS2)CSC2=NN=NN2CC(=O)O)C(=O)O)C1=O)C=1N=C(SC1)N | C18H19N9O7S3
